US07705027B2
1-(2-Benzyloxy-5-chloro-phenyl)-2-(triphenyl-λ5-phosphanylidene)-ethanone
To a stirred suspension of triphenylphosphonium bromide (2.14 g, 6.0 mmol) in dried THF (30 ml) at room temperature was added 1.6M n-BuLi in hexane (5.25 ml, 8.39 mmol). The orange suspension was stirred for 3 hours. Next, a solution of methyl 2-benzoyloxy-5-chloro-benzoate (0.83 g, 3.0 mmol) in THF (8 ml) was slowly added. The resulting mixture was stirred at 60° C. for 2 hours and filtered after cooled. DCM (100 ml) was added to the filtrate and the combined organic layers were washed with brine (2×80 ml). After filtration and evaporation of the solvent, yellow oil was obtained (2.0 g). They were then purified by chromatography, eluted with EtOAc:hexane/1:1, yielded 0.97 g solids. Rf=0.43. 1H NMR (d6-acetone) δ=7.80-7.52 (20H, m); 7.40-7.20 (1H+1H+1H, m); 5.25 (2H, s); 4.72 (1H, s, trans-H) and 4.62 (1H, s, cis-H). LCMS: (M+1)+=521.2 (RT=5.94 min.)

reactant | triphenylphosphonium bromide | 6.0 mmol, 2.14 g | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 1.6M | [Li]CCCC
reactant | hexane | 8.39 mmol, 5.25 ml | CCCCCC | C6H14
reactant | methyl 2-benzoyloxy-5-chloro-benzoate | 3.0 mmol, 0.83 g | C(C1=CC=CC=C1)(=O)OC1=C(C(=O)OC)C=C(C=C1)Cl | C15H11ClO4
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 1-(2-Benzyloxy-5-chloro-phenyl)-2-(triphenyl-λ5-phosphanylidene)-ethanone | 0.97 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)C(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C33H26ClO2P
